US07786132B2
A solution of oxone (179 mg, 0.29 mmol) in water (10 mL) was added dropwise to a stirred solution of 2-(5-bromo-2-(methylthio)pyrimidin-4-yl)thiazolo[5,4-c]pyridine (66 mg, 0.19 mmol) in dichloromethane (12 mL) at 0° C. The bright yellow suspension was allowed to warm to r.t. overnight. After 14 h the organic layer was separated, dried over sodium sulfate, filtered and the solvent evaporated in vacuo. The residue was purified by flash chromatography (ethyl acetate/hexane 25:75 to 50:50) to yield 2-(5-bromo-2-(methylsulfonyl)pyrimidin-4-yl)thiazolo[5,4-c]pyridine (59 mg, 82%) as a white amorphous solid. 1H NMR: δ (CDCl3, 400 MHz) 3.47 (s, 3H), 8.13 (d, J=5.5 Hz, 1H), 8.79 (d, J=5.5 Hz, 1H), 9.29 (s, 1H), 9.39 (s, 1H).

reactant | oxone | 0.29 mmol, 179 mg | OOS(=O)[O-].[K+]
reactant | 2-(5-bromo-2-(methylthio)pyrimidin-4-yl)thiazolo[5,4-c]pyridine | 0.19 mmol, 66 mg | BrC=1C(=NC(=NC1)SC)C=1SC=2C=NC=CC2N1 | C11H7BrN4S2
reactant | water | 10 mL | O | H2O
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
product | 2-(5-bromo-2-(methylsulfonyl)pyrimidin-4-yl)thiazolo[5,4-c]pyridine | 59 mg, 82% | BrC=1C(=NC(=NC1)S(=O)(=O)C)C=1SC=2C=NC=CC2N1 | C11H7BrN4O2S2
